US05034417
A solution of 3-chloro-4-nitrothiophenol (3.3 g) in N,N-dimethylformamide (5 ml) was added dropwise to an ice-cooled mixture of 60% sodium hydride (0.7 g) in N,N-dimethylformamide (10 ml). The mixture was stirred at 0° to 5° C. for 1 hour. To the above mixture was added dropwise methyl iodide (3.7 g) at 5° C. The mixture was stirred at room temperature for 1 hour, poured into ice-water (80 ml), and extracted with toluene. The extract was dried and evaporated. The oily residue was crystallized from a mixture of hexane and ethanol to give crystals of 3-chloro-4-nitrothioanisole (2.8 g).

reactant | 3-chloro-4-nitrothiophenol | 3.3 g | ClC=1C=C(C=CC1[N+](=O)[O-])S | C6H4ClNO2S
reactant | sodium hydride | 0.7 g | [H-].[Na+]
reactant | methyl iodide | 3.7 g | CI | CH3I
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-chloro-4-nitrothioanisole | 2.8 g | ClC=1C=C(C=CC1[N+](=O)[O-])SC | C7H6ClNO2S
